US06403791B1
7-Bromo-2-(morpholin-4-yl)-benzooxazol-4-ol
A solution of boron tribromide (25.6 ml of a 1.0M in dichloromethane) was added slowly to a stirred solution of 7-bromo-4-methoxy-2-(morpholin-4-yl)-benzooxazole (4.0 g) in dry dichloromethane (100 ml) under an atmosphere of nitrogen. The reaction mixture was stirred at room temperature for 90 mins. The mixture was partitioned between sodium hydrogencarbonate solution (50 ml) and dichloromethane (100 ml). The organic layer was separated, dried over magnesium sulphate, filtered and the solvent removed in vacuo. Purification by column chromatography on silica eluting with 30-50% ethyl acetate in heptane afforded the title compound as an off-white solid (1.64 g).

reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | 7-bromo-4-methoxy-2-(morpholin-4-yl)-benzooxazole | 4.0 g | BrC1=CC=C(C=2N=C(OC21)N2CCOCC2)OC | C12H13BrN2O3
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 7-Bromo-2-(morpholin-4-yl)-benzooxazol-4-ol | 1.64 g | BrC=1C=CC(=C2N=C(OC21)N2CCOCC2)O | C11H11BrN2O3
